US06710056B2
Methyl 3-[(4-cyanophenoxy)methyl]benzoate:
500 mg (2.18 mmol) of methyl 3-bromomethylbenzoate, 437 mg (2.40 mmol) of 4-hydroxybenzonitrile and 600 mg of potassium carbonate were stirred in dimethylformamide at room temperature for 1.5 hours. The reaction mixture was filtered through Celite, then treated by an ordinary method and purified by the silica gel column chromatography to obtain the title compound.

reactant | methyl 3-bromomethylbenzoate | 2.18 mmol, 500 mg | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | 4-hydroxybenzonitrile | 2.40 mmol, 437 mg | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 3-[(4-cyanophenoxy)methyl]benzoate | C(#N)C1=CC=C(OCC=2C=C(C(=O)OC)C=CC2)C=C1 | C16H13NO3
